US06855710B2
(Z)-3-[1-(3-trifluoroacetylamino-phenylamino)-1-phenyl-methylidene]-2-indolinone
Prepared analogously to Example 31 from (Z)-3-[1-(3-aminophenylamino)-1-phenyl-methylidene]-2-indolinone and trifluoroacetic anhydride in trifluoroacetic acid.

reactant | (Z)-3-[1-(3-aminophenylamino)-1-phenyl-methylidene]-2-indolinone | NC=1C=C(C=CC1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | C21H17N3O
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | (Z)-3-[1-(3-trifluoroacetylamino-phenylamino)-1-phenyl-methylidene]-2-indolinone | FC(C(=O)NC=1C=C(C=CC1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O)(F)F | C23H16F3N3O2
